US05557017
Into a 20 l Hastelloy C autoclave equipped with a stirrer, a reflux condenser and a thermometer, 5130 g of methanol and 60 g of isopropyl alcohol and 1485 g (22.5 mols) of 85% potassium hydroxide were charged. The reactor was heated to bring the internal temperature to 50° C. Then, 4460 g (10 mols) of C6F13I was fed thereto over a period of two hours. While maintaining the internal temperature of the reactor at a level of from 50° to 55° C., stirring was continued for 10 hours. The conversion was more than 99.9%. The reactor was cooled to room temperature, and then, 3200 g of water was added to dissolve precipitated potassium iodide. The crude reaction solution was separated into two layers, and the fluorocarbon layer (lower layer) was further washed twice with 3200 g of water to obtain 2975 g (purity: 99.9%) of C6F13H. In the reactor, no formation of tar was observed.

reactant | methanol | 5130 g | CO | CH4O
reactant | isopropyl alcohol | 60 g | C(C)(C)O | C3H8O
reactant | potassium hydroxide | 22.5 mols, 1485 g | [OH-].[K+]
reactant | C6F13I | 10 mols, 4460 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)I | C6F13I
catalyst | Hastelloy C | 20 l | [Cr].[Co]
solvent | water | 3200 g | O | H2O
product | C6F13H | 2975 g | C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C6HF13
